US07074970B2
To a mixture of di-μ-chlorobis(1,5-cyclooctadiene)diiridium(I) [Ir(cod)Cl]2 (0.01 mmol) and 4MgCO3-Mg(OH)2-5H2O (0.6 mmol) in toluene (1.0 ml), 1-octanol (130 mg, 1 mmol) and vinyl acetate (2 mmol) were added, followed by stirring at 100° C. in an atmosphere of argon gas for 2 hours. The reaction mixture was analyzed by gas chromatography to find that 1-octyl vinyl ether and octyl acetate were produced in yields of 18% and 3%, respectively, with a conversion from 1-octanol of 44%.

reactant | 1-octanol | 1 mmol, 130 mg | C(CCCCCCC)O | C8H18O
reactant | vinyl acetate | 2 mmol | C(C)(=O)OC=C | C4H6O2
reactant | 1-octyl vinyl ether | C(=C)OCCCCCCCC | C10H20O
solvent | toluene | 1.0 ml | C1(=CC=CC=C1)C | C7H8
product | octyl acetate | C(C)(=O)OCCCCCCCC | C10H20O2
